US07507761B2
7-Chloro-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-one
A solution of 4-chloro-2-hydroxyacetophenone (20 g, 0.1176 mol), acetone (13.3 mL, 0.1811 mol) and pyrrolidine (15 mL, 0.18 mol) in methanol (475 mL) was stirred at 25° C. overnight. The mixture was then concentrated to a red oil. Water was added and the solution was adjusted to pH 1 with concentrated hydrochloric acid. The product was extracted with diethylether. The organic layer was dried over magnesium sulfate and diethylether was evaporated under reduced pressure. The residue was dissolved in a small volume of methanol. The solution was treated with charcoal, filtered and water was added to the filtrate. The resulting precipitate was collected by filtration, washed with water and dried (79%). mp: 63-66° C., IR (KBr): υ: 3086 (C—H aromatic), 2976, 2931 (C—H aliphatic), 1693 (C=0) cm−1, Anal. (C11H11O2Cl) C, H.

reactant | 4-chloro-2-hydroxyacetophenone | 0.1176 mol, 20 g | CC(=O)C1=C(C=C(C=C1)Cl)O | C8H7ClO2
reactant | acetone | 0.1811 mol, 13.3 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 0.18 mol, 15 mL | N1CCCC1 | C4H9N
solvent | methanol | 475 mL | CO | CH4O
product | 7-Chloro-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-one | ClC1=CC2=C(C(CC(O2)(C)C)=O)C=C1 | C11H11ClO2
